US07074799B2
6. 3-Amino-5-[3-(trifluoromethyl)(2-pyridyl)]pyridine-2-carboxamide
Heat a solution of 6′-chloro-3-trifluoromethyl-[2,3′]bipyridinyl-5′-ylamine (25 g, 0.091 mol), zinc cyanide (6.75 g, 0.058 mol), tris[dibenzylidineacetone]di-palladium (also referred to as “pd2(dba)3”; 2.63 g, 2.86 mmol), 1,1′-bis(diphenylphosphino)ferrocene (also referred to as “DPPF”; 3.16 g, 5.72 mmol) in DMF (250 mL) and water (2.5 mL), under a nitrogen atmosphere, at 120° C. for 1 hour. Add water (30 mL) and heat the solution at 120° C. for a further 4 hours to complete the hydrolysis. Cool the reaction to 0° C. and add a solution of saturated ammonium chloride (200 ml), water (200 mL) and concentrated ammonium hydroxide (50 mL). After stirring at 0° C. for 1 hour, filter the yellow precipitate, and wash with water (200 mL) and a 1:1 mixture of ether-hexane (200 mL). Dry the solid in air and then in a vacuum oven to give (23 g, 90%) of the title compound.

reactant | 6′-chloro-3-trifluoromethyl-[2,3′]bipyridinyl-5′-ylamine | 0.091 mol, 25 g | ClC1=C(C=C(C=N1)C1=NC=CC=C1C(F)(F)F)N | C11H7ClF3N3
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | 2.5 mL | O | H2O
catalyst | zinc cyanide | 0.058 mol, 6.75 g | [C-]#N.[Zn+2].[C-]#N
catalyst | pd2(dba)3 | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 200 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 3-Amino-5-[3-(trifluoromethyl)(2-pyridyl)]pyridine-2-carboxamide | 23 g, 90% | NC=1C(=NC=C(C1)C1=NC=CC=C1C(F)(F)F)C(=O)N | C12H9F3N4O
